US05554607
1-Ethyl-3-(2-ethyl-6-isopropylphenyl)-2-thioxo-imidazolin-4-one
The title compound was prepared by the procedure described in Example 28 using 20.5 g of 2-ethyl-6-isopropylphenyl-isothiocyanate, 18.4 g of N-ethyl glycine, 20.2 g of triethyl amine, and 300 mL of chloroform. Purification was achieved by flash chromatography on silica gel (5-10 % ethyl acetate in hexane). Crystallization from diethyl ether/hexane afforded pure title compound (7.5 g) as a white solid, m.p. 77°-79° C. Anal. Calcd. for. C16H22N2O S: C, 66.17; H, 7.64; N, 9.65. Found: C, 66.12; H, 7.77; N, 9.69. Mass spectrum i2EI, M.+) m/z 290.

reactant | 2-ethyl-6-isopropylphenyl-isothiocyanate | 20.5 g | C(C)C1=C(C(=CC=C1)C(C)C)N=C=S | C12H15NS
reactant | N-ethyl glycine | 18.4 g | C(C)NCC(=O)O | C4H9NO2
reactant | triethyl amine | 20.2 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 300 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-Ethyl-3-(2-ethyl-6-isopropylphenyl)-2-thioxo-imidazolin-4-one | C(C)N1C(N(C(C1)=O)C1=C(C=CC=C1C(C)C)CC)=S | C16H22N2OS
